US08106077B2
3-(2,6-Dichloro-phenyl)-3H-[1,2,3]triazole-4-carbaldehyde
To a solution of [3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-yl]-methanol (1.87 g, 1 equiv) in methylene chloride (110 mL) is added Dess-Martin oxidant (4.20 g, 1.3 equiv). The reaction mixture is allowed to stir at room temperature for 3 h. The reaction is incomplete as evidenced by TLC. The reaction mixture is treated with Dess-Martin oxidant (1.20 g). The reaction mixture is allowed to stir at room temperature for an additional 2 h. The reaction mixture is treated with 80 mL 1.5 N sodium hydroxide and 40 mL diethyl ether. The resulting solution is allowed to stir at room temperature for ten minutes. The reaction mixture is diluted with 120 mL water and extracted three times with chloroform. The combined organic layers are dried over magnesium sulfate and filtered though a plug of silica gel eluting with chloroform/ethyl acetate (3:1, 200 mL). The filtrate is concentrated under reduced pressure to give the title compound (1.76 g, 94%) as a white solid.

reactant | [3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-yl]-methanol | 1.87 g, 1 equiv | ClC1=C(C(=CC=C1)Cl)N1N=NC=C1CO | C9H7Cl2N3O
reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydroxide | 1.5 N, 80 mL | [OH-].[Na+]
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
solvent | water | 120 mL | O | H2O
product | 3-(2,6-Dichloro-phenyl)-3H-[1,2,3]triazole-4-carbaldehyde | 1.76 g, 94% | ClC1=C(C(=CC=C1)Cl)N1N=NC=C1C=O | C9H5Cl2N3O
